US06562814B2
A mixture of 5-chloro-2-methoxyphenyl-isothiocyanate (11.45 g), N-methyl aminooxy acetic acid hydrochloride (8.15 g), triethylamine (20 g) and chloroform (250 mL) was heated at reflux for three hours, then evaporated to dryness. The residue was dissolved in ethyl acetate (400 mL) and washed with 2N HCl (2×300 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness to give (17.1 g) of [[[[(5-chloro-2-metoxyphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid as an oil that solidifies upon standing. The acid (15.2 g) was dissolved in benzene (200 mL). Phosphorus pentachloride (10.4 g) was added in portions. The mixture was heated at reflux for one half hour then evaporated to dryness. The residue was dissolved in ethyl acetate (500 mL) and washed with sodium bicarbonate saturated solution (2×300 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (40-60% methylene chloride in hexane). The title compound (5.1 g) was obtained as a solid, m.p. 189-191° C. Mass spectrum (El, M.+) m/z 286/288. 1H-NMR (DMSO-d6; 400 MHz) δ7.44 (d, 1H), 7.31 (s, 1H), 7.14 (d, 1H), 5.06 (s, 2H), 3.73 (s, 3H), and 3.63 ppm (s, 3H).

reactant | 5-chloro-2-methoxyphenyl-isothiocyanate | 11.45 g | ClC=1C=CC(=C(C1)N=C=S)OC | C8H6ClNOS
reactant | N-methyl aminooxy acetic acid hydrochloride | 8.15 g | Cl.CNOCC(=O)O
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | [[[[(5-chloro-2-metoxyphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid | 17.1 g | ClC=1C=CC(=C(C1)NC(=S)N(OCC(=O)O)C)OC | C11H13ClN2O4S
